.SUBCKT LATHRX1H7R D G Q QN RN VDD VSS
*.PININFO D:I G:I RN:I Q:O QN:O VDD:B VSS:B
MNM0 net44 RN VSS VSS nm1p2_svt_lp W=200n L=60n m=1
MMN2 net47 D net44 VSS nm1p2_svt_lp W=200n L=60n m=1
MMN4 net41 netqn net38 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN5 net38 RN VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN1 netq GN net41 VSS nm1p2_svt_lp W=150n L=60n m=1
MMP1 net47 D VDD VDD pm1p2_svt_lp W=270n L=60n m=1
MMP4 netq GP net059 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP5 net059 netqn VDD VDD pm1p2_svt_lp W=150n L=60n m=1
MMP3 netq RN VDD VDD pm1p2_svt_lp W=200n L=60n m=1
XI4 netq VDD VSS Q / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XI8 netq VDD VSS netqn / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XI7 netqn VDD VSS QN / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XI6 GN VDD VSS GP / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XI0 G VDD VSS GN / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XXI9 GP GN net47 netq VDD VSS / TG pl=6E-08 pw=2.7E-07 nl=6E-08 nw=1.95E-07
.ENDS
