.SUBCKT LATHX2H7R D G Q QN VDD VSS
*.PININFO D:I G:I Q:O QN:O VDD:B VSS:B
XXI6 D GP GN VDD VSS net25 / TSINV pl=60n pw=280n nl=60n nw=200n
XXI15 net9 GN GP VDD VSS net25 / TSINV pl=60n pw=150n nl=60n nw=150n
XI11 GN VDD VSS GP / INV pl=60n pw=280n nl=60n nw=200n
XI9 G VDD VSS GN / INV pl=60n pw=280n nl=60n nw=200n
XXI7 net25 VDD VSS net9 / INV pl=60n pw=280n nl=60n nw=200n
XI2 net25 VDD VSS Q / INV pl=60n pw=400n nl=60n nw=280n
XI1 net9 VDD VSS QN / INV pl=60n pw=400n nl=60n nw=280n
.ENDS
