.SUBCKT LATLRX1H7R D GN Q QN RN VDD VSS
*.PININFO D:I GN:I RN:I Q:O QN:O VDD:B VSS:B
MNM4 net47 D net29 VSS nm1p2_svt_lp W=200n L=60n m=1
MNM3 net29 RN VSS VSS nm1p2_svt_lp W=200n L=60n m=1
MNM2 netq GB net66 VSS nm1p2_svt_lp W=150n L=60n m=1
MNM1 net66 netqn net67 VSS nm1p2_svt_lp W=150n L=60n m=1
MNM0 net67 RN VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MPM3 netq RN VDD VDD pm1p2_svt_lp W=200n L=60n m=1
MPM2 net47 D VDD VDD pm1p2_svt_lp W=280n L=60n m=1
MPM1 net65 netqn VDD VDD pm1p2_svt_lp W=150n L=60n m=1
MPM0 netq GP net65 VDD pm1p2_svt_lp W=150n L=60n m=1
XI11 GP VDD VSS GB / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XI12 GN VDD VSS GP / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XI13 netq VDD VSS netqn / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XI14 netqn VDD VSS QN / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XI16 netq VDD VSS Q / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XI15 GP GB net47 netq VDD VSS / TG pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
.ENDS
