.SUBCKT LATLX4H7R D GN Q QN VDD VSS
*.PININFO D:I GN:I Q:O QN:O VDD:B VSS:B
XXI6 D GP GPN VDD VSS net25 / TSINV pl=60n pw=340n nl=60n nw=240n
XXI15 net9 GPN GP VDD VSS net25 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI7 net25 VDD VSS net9 / INV pl=60n pw=280n nl=60n nw=200n
XXI4 GN VDD VSS GP / INV pl=60n pw=280n nl=60n nw=200n
XI0 net9 VDD VSS QN / INV pl=60n pw=800n nl=60n nw=560n
XXI13 GP VDD VSS GPN / INV pl=60n pw=340n nl=60n nw=240n
XI2 net25 VDD VSS Q / INV pl=60n pw=800n nl=60n nw=560n
.ENDS
